* ============================================================
* RIAA Phono Preamplifier - motor turn-on transient (decoupled)
*
* Purpose: does the motor turn-on event (modeled in power_supply.cir
* as a step to 200mA at t=2ms) produce an audible thump at vout?
*
* APPROACH: decoupled/one-way simulation, not a single combined
* deck. Justification: the preamp's own current draw (~1.8mA per
* OPA164x core, so ~3.6-5mA for a stereo pair including small signal
* currents) is 1-2.5% of the motor's 200mA budgeted draw and well
* under 1% of its 600mA inrush - nowhere near enough to meaningfully
* change how VRAW/VGND respond to the motor step. So the PSU's own
* transient response can be simulated once, in isolation (which you
* already did - nice), and its result played INTO this file as a
* fixed disturbance, rather than co-simulating both decks together.
* This also sidesteps a real practical problem: OPA164x.lib has
* several VSWITCH-based subcircuits in it (ESD clamps, overload
* sense), and switches are exactly what makes transient sims slow
* (small adaptive timesteps at every transition) - doing that for a
* full combined preamp+PSU deck, doubled for stereo, could crawl.
*
* STATUS: got your two exported files (power_supply_tran_VGND.txt,
* power_supply_tran_VRAW.txt - 3937 data points each, full 0-1s
* range). They came in with a one-line text header ("time  V(vgnd)")
* which LTspice's PWL-from-file reader won't accept (it wants pure
* numeric pairs, nothing else) - stripped that off and saved clean
* versions as power_supply_tran_VGND_pwl.txt and
* power_supply_tran_VRAW_pwl.txt, referenced below. Delivered
* alongside this file - put all three in the same folder.
*
* Quick read of the data before even simulating the preamp: VRAW
* dips fast (edge at t=2ms, down to ~23.46V within ~10-20ms) then
* recovers SLOWLY over the following several hundred ms to a small
* steady-state offset around 23.62V (about 0.04V below the pre-step
* 23.62V baseline) - consistent with the 200mA draw against the
* diode+fuse's small series resistance once things settle. VGND
* tracks at roughly half that, as expected from the resistive
* divider. So there are really two things to watch for at vout: a
* fast initial edge (audio-band, could read as a click) and a slow
* multi-hundred-ms drift back to baseline (sub-audio-band, more like
* a DC wander than a click) - worth looking at both parts of the
* .tran plot rather than just the first few ms.
*
* GROUND-REFERENCE HANDLING - the part that's different from the
* other preamp netlists: elsewhere, this channel's "0" node stands
* in for VGND (see the integration note in riaa_preamp.cir) because
* VGND is assumed steady. Here VGND is exactly what we're testing as
* a MOVING quantity, so it can't be node "0" anymore (SPICE's "0" is
* always the fixed absolute reference). Instead:
*   - AGND (this channel's local audio ground) is driven by the
*     exported V(vgnd) waveform, referenced to true ground.
*   - VCC is driven by the exported V(vraw) waveform.
*   - VEE ties directly to true ground ("0") - the PSU deck already
*     established that PGND (the op-amp's negative supply return) IS
*     node "0" in that file, and PGND isn't part of what's moving
*     here, only VRAW and VGND were captured.
*   - Every net that used to reference "0" for the audio path
*     (cartridge return, Rin_load, Cload, C0) now references AGND
*     instead, so the whole audio signal chain rides on the same
*     moving reference it would in the real integrated system.
*   - vout is still measured as an absolute node voltage (relative to
*     true "0") - that's deliberate: it's what actually reaches the
*     RCA jack, and comparing V(vout) against V(agnd) tells you how
*     much of the disturbance is "the whole local ground moving
*     together" (harmless if your output is AC-coupled - see the
*     output-cap open item) versus something showing up
*     asymmetrically at vout beyond what AGND itself did.
*
* Cartridge signal: Vcart is defined with only an AC magnitude below
* (no SIN/PULSE/PWL time-domain spec), so for THIS .tran run it
* contributes exactly 0V - SPICE uses an independent source's DC
* value (defaults to 0 here) for transient analysis unless you give
* it an explicit time-domain waveform. That's intentional: it
* isolates the PSU-coupling effect cleanly, with no music signal
* mixed in to confuse the read. If you want to see how this looks
* under an actual playing signal later, swap Vcart's spec for a
* SIN(0 4m 1k) or similar.
* ============================================================

.include OPA164x/OPA164x.lib

* --- Op-amp supply rails, driven by the exported PSU transient ---
* NOTE: adjust the two filenames below if you named your exports
* differently. LTspice PWL-file sources hold the last value in the
* file for any simulation time beyond the file's last timestamp, and
* use the first value for t before the file's first timestamp - so
* it's fine if this .tran's stop time doesn't exactly match the
* export's length, just don't rely on anything after the file ends.
Vcc VCC 0 PWL file="power_supply_tran_VRAW_pwl.txt"
Vee VEE 0 DC 0
Vagnd AGND 0 PWL file="power_supply_tran_VGND_pwl.txt"

* --- Cartridge equivalent circuit (Audio-Technica AT-VM95E) ---
* Return node changed from "0" to AGND - see header note.
Vcart cart_emf AGND AC 4m 0
Rcoil cart_emf cart_mid 485
Lcoil cart_mid vin 550m

* --- Cartridge loading network, at the preamp input node ---
Rin_load vin AGND 47k
Cload vin AGND 150p

* --- Op-amp: real OPA164x model ---
X1 vin fb VCC VEE vout_raw OPA164x

* --- Feedback network: R0/C0 ground leg ---
* C0's return changed from "0" to AGND - see header note.
R0 fb nA 1k
C0 nA AGND 8.2u

* --- Feedback network: R1||C1 in series with R2||C2 ---
* Unchanged - this branch never referenced "0"/AGND directly.
R1 vout_raw nB 511k
C1 vout_raw nB 6.2n
R2 nB fb 43.2k
C2 nB fb 1.8n
C3 vout_raw vout_ac_couple 100n
Rload vout_ac_couple 0 10k
* --- Analysis ---
* Full 1s to match the exported data range (the slow recovery tail
* is still moving through most of that window per the data - see
* header note - so 300ms would have cut it off). This is a much
* simpler circuit than the combined deck would have been (one real
* op-amp core, no PSU-side switches to resolve), so 1s should still
* run quickly. If you only care about the fast initial edge, you can
* shorten this back down (e.g. 0 50m 0 10u) for a quicker look.
* Watch V(vout) and V(agnd) together - see header note on what the
* difference between them tells you.
.tran 0 1 0 10u
.op

.end
